US04307105
(a) 4-Chloromethyl-2-methylthiazole, hydrochloride (1:1)
25.4 g of 1,3-dichloroacetone (0.2 mol) and 15 g of thioacetamide (0.2 mol), dissolved in 200 ml of absolute alcohol are stirred at 60°-70° for two hours. Subsequently, the solution is filtered and after evaporation in vacuo the residue is treated with 200 ml of ether. The 4-chloromethyl-2-methylthiazole, hydrochloride (32.8 g=89%) is filtered off and recrystallized from absolute alcohol (refrigerator); m.p. 168°-170° C.

reactant | 1,3-dichloroacetone | 0.2 mol, 25.4 g | ClCC(=O)CCl | C3H4Cl2O
reactant | thioacetamide | 0.2 mol, 15 g | C(C)(=S)N | C2H5NS
product | 4-Chloromethyl-2-methylthiazole, hydrochloride | Cl.ClCC=1N=C(SC1)C | InChI=1S/C5H6ClNS.ClH/c1-4-7-5(2-6)3-8-4;/h3H,2H2,1H3;1H
